US05849920
2-Amino-3-chloro-6-fluoro-5-trifluoromethylpyridine
12.5 g (0.74 mol) of gaseous ammonia were passed into a stirred mixture of 40 g (0.184 mol) of 3-chloro-2,6-difluoro-5-trifluoromethylpyridine in 200 ml of ethanol in the course of 45 minutes at 50°-60° C. After the reaction mixture had been stirred for 11/2 hours at 55° C., it was cooled and concentrated. The residue was stirred in water, filtered off with suction and dried, giving 36.7 g (93% of theory) of the title compound of m.p. 101°-103° C.

reactant | ammonia | 0.74 mol, 12.5 g | N | H3N
reactant | 3-chloro-2,6-difluoro-5-trifluoromethylpyridine | 0.184 mol, 40 g | ClC=1C(=NC(=C(C1)C(F)(F)F)F)F | C6HClF5N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-Amino-3-chloro-6-fluoro-5-trifluoromethylpyridine | NC1=NC(=C(C=C1Cl)C(F)(F)F)F | C6H3ClF4N2
